US07582652B2
Propane-2-sulfonic acid {3-amino-6-[2-(2,6-difluorophenyl)-5-phenyl-3H-imidazol-4-yl]-pyridin-2-yl}amide
Add 10% Pd/C (0.033 g) to a stirring solution of propane-2-sulfonic acid {6-[2-(2,6-difluorophenyl)-5-phenyl-3H-imidazol-4-yl]-3-nitropyridin-2-yl}amide (0.33 g, 0.66 mmol) in MeOH (10 mL). Add sodium borohydride (0.124 g, 3.3 mmol) in portions and with stirring under nitrogen for 15 min. Filter the catalyst and concentrate. Dilute with EtOAc (20 mL) and extract successively with saturated NaHCO3 and saturated aqueous NaCl. Dry the organic layer over Na2SO4 and concentrate to give the title compound (0.3 g, 98%).

reactant | propane-2-sulfonic acid {6-[2-(2,6-difluorophenyl)-5-phenyl-3H-imidazol-4-yl]-3-nitropyridin-2-yl}amide | 0.66 mmol, 0.33 g | FC1=C(C(=CC=C1)F)C1=NC(=C(N1)C1=CC=C(C(=N1)NS(=O)(=O)C(C)C)[N+](=O)[O-])C1=CC=CC=C1 | C23H19F2N5O4S
reactant | sodium borohydride | 3.3 mmol, 0.124 g | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 0.033 g | [Pd] | Pd
product | Propane-2-sulfonic acid {3-amino-6-[2-(2,6-difluorophenyl)-5-phenyl-3H-imidazol-4-yl]-pyridin-2-yl}amide | 0.3 g, 98% | NC=1C(=NC(=CC1)C=1NC(=NC1C1=CC=CC=C1)C1=C(C=CC=C1F)F)NS(=O)(=O)C(C)C | C23H21F2N5O2S
